US05834506
3-(4-Nitrophenyl)propanoic acid
A suspension of 4-nitrocinnamic acid (13.5 g, 70 mmol) in H2O (100 mL) was treated with hydroxylamine sulfate (18.5 g, 113 mmol) and hydroxylamine-o-sulfonic acid (43.5 g, 385 mmol) at 0° C. The pH was adjusted to 7.6 with 50% NaOH, and additional base was added as needed over the next 6 hours to maintain a pH of 7.6. The mixture was then filtered, and the filtrate was acidified to pH 2 with 2N H2SO4. The solids that formed were filtered, washed with H2O, and recrystallized from EtOH:H2O(30 mL: 150 mL) to give the title compound. 1H NMR (CDCl3) δ 2.71 (t, 2 H), 3.03 (t, 2 H), 7.34 (d, 2 H), 8.13 (d, 2 H).

reactant | 4-nitrocinnamic acid | 70 mmol, 13.5 g | [N+](=O)([O-])C1=CC=C(C=CC(=O)O)C=C1 | C9H7NO4
reactant | hydroxylamine sulfate | 113 mmol, 18.5 g | S(=O)(=O)(O)O.NO
reactant | hydroxylamine-o-sulfonic acid | 385 mmol, 43.5 g | NOS(=O)(=O)O | H3NO4S
reactant | NaOH | [OH-].[Na+]
solvent | H2O | 100 mL | O | H2O
product | 3-(4-Nitrophenyl)propanoic acid | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)O | C9H9NO4
